### PR TITLE
refactor: reduce defeq abuse in `Representation.asModule`

### PR DESCRIPTION
**Pull request by plp127**
Reduce defeq abuse around `Representation.asModule` by adding explicitly uses of `Representation.asModuleEquiv` to convert between `V` and `ρ.asModule`. Also reorganize some `@[simp]` lemmas and fix some naming issues.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Basic.lean [hunk 1]
```diff
@@ -174,12 +174,25 @@ theorem asModuleEquiv_symm_map_smul (r : k) (x : V) :
   rw [LinearEquiv.symm_apply_eq]
   simp
 
-@[simp]
 theorem asModuleEquiv_symm_map_rho (g : G) (x : V) :
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:177]: Is rho really a mathlib style name?

File: Mathlib/RepresentationTheory/Basic.lean [hunk 2]
```diff
@@ -174,12 +174,25 @@ theorem asModuleEquiv_symm_map_smul (r : k) (x : V) :
...
     ρ.asModuleEquiv.symm (ρ g x) = MonoidAlgebra.of k G g • ρ.asModuleEquiv.symm x := by
   rw [LinearEquiv.symm_apply_eq]
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:184]: Now this lemma follows from `by simp` with the helf of your new design `single_smul_asModuleEquiv_symm_apply`

File: Mathlib/RepresentationTheory/Basic.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/RepresentationTheory/Basic.lean:177]: now that I'm looking at this this is indeed not a good name, do you have any suggestions for a better name?

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Basic.lean:177]: not really, but I don't mind an @[deprecated] since it follows from simp now

File: Mathlib/RepresentationTheory/Basic.lean [hunk 3]
```diff
@@ -174,12 +174,25 @@ theorem asModuleEquiv_symm_map_smul (r : k) (x : V) :
...
   simp
 
+lemma asModuleEquiv_apply_single_smul (t : k) (g : G) (v : ρ.asModule) :
+    ρ.asModuleEquiv (MonoidAlgebra.single (g : G) t • v) = t • ρ g (ρ.asModuleEquiv v) := by
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:183]:
```suggestion
    ρ.asModuleEquiv (single (g : G) t • v) = t • ρ g (ρ.asModuleEquiv v) := by
```

File: Mathlib/RepresentationTheory/Basic.lean [hunk 4]
```diff
@@ -174,12 +174,25 @@ theorem asModuleEquiv_symm_map_smul (r : k) (x : V) :
...
+  simp
+
+@[simp]
+lemma single_smul_asModuleEquiv_symm_apply (t : k) (g : G) (v : V) :
+    MonoidAlgebra.single (g : G) t • ρ.asModuleEquiv.symm v = t • ρ.asModuleEquiv.symm (ρ g v) := by
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:188]:
```suggestion
    single (g : G) t • ρ.asModuleEquiv.symm v = t • ρ.asModuleEquiv.symm (ρ g v) := by
```

File: Mathlib/RepresentationTheory/Basic.lean [hunk 5]
```diff
@@ -174,12 +174,25 @@ theorem asModuleEquiv_symm_map_smul (r : k) (x : V) :
...
+  rw [← map_smul ρ.asModuleEquiv.symm, ρ.asModuleEquiv.eq_symm_apply,
+    asModuleEquiv_apply_single_smul, LinearEquiv.apply_symm_apply]
+
+theorem single_smul (t : k) (g : G) (v : ρ.asModule) :
+    MonoidAlgebra.single (g : G) t • v = t • ρ.asModuleEquiv.symm (ρ g (ρ.asModuleEquiv v)) :=
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:193]:
```suggestion
    single (g : G) t • v = t • ρ.asModuleEquiv.symm (ρ g (ρ.asModuleEquiv v)) :=
```

File: Mathlib/RepresentationTheory/Basic.lean (hunk 1 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Basic.lean:177]: First of all, `MonoidAlgebra.of k G g` is just a wrapper of `single g (1 : k)` so this lemma follows from your `single_smul_asModuleEquiv_symm_apply`. We can record it as a rewrite lemma
```
lemma single_one_smul_asModuleEquiv_symm_apply (g : G) (x : V) :
    single g (1 : k) • ρ.asModuleEquiv.symm x = ρ.asModuleEquiv.symm (ρ g x) := by
  simp
```

By the way, in line 83 RepresentationTheory.Submodule.lean we can use a better proof
```
    exact ρ.asModuleEquiv.injective (by simp)⟩
```

File: Mathlib/RepresentationTheory/Basic.lean (hunk 3 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Basic.lean:183]: `single g t` also works

File: Mathlib/RepresentationTheory/Basic.lean
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:168]:
```suggestion
theorem asModuleEquiv_apply_smul (r : k[G]) (x : ρ.asModule) :
```

Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:172]:
```suggestion
theorem asModuleEquiv_symm_apply_smul (r : k) (x : V) :
```

Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:173]: The content is essentially
```
    ρ.asModuleEquiv.symm (r • x) = r • ρ.asModuleEquiv.symm x := by
```
I suspect that this is a useless lemma

File: Mathlib/RepresentationTheory/Basic.lean [hunk 6]
```diff
@@ -174,12 +174,25 @@ theorem asModuleEquiv_symm_map_smul (r : k) (x : V) :
   rw [LinearEquiv.symm_apply_eq]
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:174]: This lemma can be proved from `by simp` now with the help of `single_smul_asModuleEquiv_symm_apply`

File: Mathlib/RepresentationTheory/Intertwining.lean
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Intertwining.lean:517]:
```suggestion
noncomputable def equivLinearMapAsModule :
    IntertwiningMap ρ σ ≃ₗ[A] ρ.asModule →ₗ[A[G]] σ.asModule where
  toFun f :=
    { toFun := σ.asModuleEquiv.symm ∘ₗ f.toLinearMap ∘ₗ ρ.asModuleEquiv
      map_add' := by simp
      map_smul' m _ := by
        refine MonoidAlgebra.induction_linear m (by simp) ?_ (by simp [f.isIntertwining])
        exact fun _ _ hx hy => by simp [add_smul, map_add, hx, hy] }
  invFun f :=
    { toLinearMap := σ.asModuleEquiv.toLinearMap ∘ₗ f ∘ₗ ρ.asModuleEquiv.symm.toLinearMap
      isIntertwining' g := LinearMap.ext fun v => by simpa using congrArg σ.asModuleEquiv <|
        (f.map_smul' (MonoidAlgebra.single g 1) (ρ.asModuleEquiv.symm v)) }
  map_add' _ _ := by ext; simp
  map_smul' _ _ := by ext; simp
  left_inv _ := rfl
  right_inv _ := rfl
```

File: Mathlib/RepresentationTheory/Subrepresentation.lean [hunk 7]
```diff
@@ -147,26 +148,25 @@ def ofSubmodule (N : Submodule A[G] M) :
...
+      replace hw : ρ.asModuleEquiv.symm w ∈ N := by simpa using hw
+      simpa using (N.smul_mem (algebraMap A A[G] a) hw) }
   apply_mem_toSubmodule g w hw := by
-    let _ : Module A[G] W := ρ.instModuleMonoidAlgebraAsModule
-    have h : (MonoidAlgebra.single g (1 : A)) • w ∈ N :=
+    have h : (MonoidAlgebra.single g (1 : A)) • ρ.asModuleEquiv.symm w ∈ N :=
       Submodule.smul_of_tower_mem N _ hw
-    rw [Representation.single_smul, one_smul] at h
-    exact h
+    simpa using h
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Subrepresentation.lean:160]:
```suggestion
    rw [Submodule.mem_comap] at hw
    simpa using N.smul_of_tower_mem (MonoidAlgebra.single g (1 : A)) hw
```

File: Mathlib/RepresentationTheory/Subrepresentation.lean [hunk 8]
```diff
@@ -147,26 +148,25 @@ def ofSubmodule (N : Submodule A[G] M) :
...
--/
-def ofSubmodule' (N : Submodule A[G] ρ.asModule) : Subrepresentation ρ where
-  toSubmodule := { N with
-    smul_mem' a w hw := by simpa using! (N.smul_mem (algebraMap A A[G] a) hw) }
+/-- An `A[G]`-submodule of `ρ.asModule` can be thought of as a subrepresentation of `ρ`. -/
+noncomputable def ofSubmodule' (N : Submodule A[G] ρ.asModule) : Subrepresentation ρ where
+  toSubmodule := { (N.restrictScalars A).comap ρ.asModuleEquiv.symm.toLinearMap with
+    smul_mem' a w hw := by
+      replace hw : ρ.asModuleEquiv.symm w ∈ N := by simpa using hw
+      simpa using (N.smul_mem (algebraMap A A[G] a) hw) }
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Subrepresentation.lean:156]:
```suggestion
      simpa using N.smul_mem (algebraMap A A[G] a) hw }
```

File: Mathlib/RepresentationTheory/Basic.lean [hunk 9]
```diff
@@ -254,24 +275,6 @@ theorem smul_ofModule_asModule (r : k[G]) (m : (ofModule M).asModule) :
...
 end
 
-@[simp]
-lemma single_smul (t : k) (g : G) (v : ρ.asModule) :
-    MonoidAlgebra.single (g : G) t • v = t • ρ g (ρ.asModuleEquiv v) := by
-  rw [← LinearMap.smul_apply, ← asAlgebraHom_single, ← asModuleEquiv_map_smul]
-  rfl
-
-set_option backward.isDefEq.respectTransparency false in
-instance : IsScalarTower k k[G] ρ.asModule where
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Basic.lean:264]: Is there a good reason to delete this?

Comment (plp127) [reply Mathlib/RepresentationTheory/Basic.lean:264]: It is moved to earlier in the file.
